US04101582
Preparation of Methyl 2-methyl-5-nitrobenzyl ether.
2-Methyl-5-nitrobenzyl chloride (16.2 g) was dissolved in methanol (180 ml) and then sodium methoxide (5.4 g) was added and the mixture refluxed. The reaction was followed by tlc (75/25 v/v, hexane/benzene) and additional quantities of sodium methoxide added and heating continued until the reaction was complete. Finally, the mixture was cooled and filtered. The filtrate was concentrated in vacuo and the residue taken up in methylene chloride, washed with water, then the organic layer was separated and dried over magnesium sulfate. Removal of the drying agent by filtration and concentration of the filtrate in vacuo left 15.8 g, which was recrystallized from 150 ml of hexane to give 11.5 g of white solid with m.p. 45°-49° C. Another run gave a solid which after recrystallization from hexane gave a solid with m.p. 50-52° C.

reactant | 2-Methyl-5-nitrobenzyl chloride | 16.2 g | CC1=C(CCl)C=C(C=C1)[N+](=O)[O-] | C8H8ClNO2
reactant | sodium methoxide | 5.4 g | C[O-].[Na+]
reactant | hexane benzene | CCCCCC.C1=CC=CC=C1
solvent | methanol | 180 ml | CO | CH4O
product | Methyl 2-methyl-5-nitrobenzyl ether | 11.5 g | CC1=C(COC)C=C(C=C1)[N+](=O)[O-] | C9H11NO3
